data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1611,1780,[CH3:16][C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:19]([C:20]#[N:21])([C:22](=[O:23])[O:24][CH3:25])[N:18]=[C:17]2[CH3:16],water,298.15,18.58981466157116,-44.3979965774836
2596,2877,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH:27]#[N+:28][C-:29]([C:30](=[O:31])[NH:32][CH3:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:29]([C:30](=[O:31])[NH:32][CH3:33])([C:34](=[O:35])[NH:36][CH3:37])[N:28]=[CH:27]2,water,298.15,14.7382232407782,-62.78159051943139
700,761,[CH3:11][c-:12]1[o+:13][c:14]([C:15]#[N:16])[o:17][c:18]1=[O:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:12]1([CH3:11])[O:13][C:14]2([C:15]#[N:16])[O:17][C:18]1=[O:19],water,298.15,11.448507497303456,-31.12911621809193
1751,1939,[CH3:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:18]([CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]([CH3:17])[CH:15]3[C:13]([CH3:12])=[O:14],water,298.15,17.926162233550944,-36.06430735709189
4143,4744,[CH3:9][O:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[O:14][C:15]1([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.07326662225458,-22.85754578006945
676,736,[CH3:17][c-:18]1[o+:19][n:20][o:21][c:22]1=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[C:18]1([CH3:17])[O:19][N:20]2[O:21][C:22]1=[O:23],water,298.15,19.12556741329716,-16.5436034509337
4401,5033,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[O+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,9.045844693429952,-46.49726333055826
4706,5371,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[N:9]#[C:10][C-:11]([C:12]#[N:13])[O+:14]=[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:14][C:11]2([C:10]#[N:9])[C:12]#[N:13],water,298.15,13.055210013253715,-20.75627815101421
750,812,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][O:7][CH3:8].[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14](=[O:15])[O:16][CH3:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[CH3:22]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14](=[O:15])[O:16][CH3:17])[N:18]([CH3:19])[C:20]1([CH3:21])[CH3:22],water,298.15,32.92218678783027,-32.22556291761202
2045,2270,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:21]([CH3:22])[CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,3.7714336154479287,-36.07700435595256
